US07812016B2
7-[5-(3-Methoxybenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol
The title compound was prepared in a similar manner to that described in example 1 from of 8-hydroxy-1,6-naphthyridine-7-carbonitrile (50 mg, 0.29 mmol) and 2-(3-methoxyphenyl)acetic hydrazide (270 mg, 1.5 mmol) as a yellow solid (20 mg, 21%). 1H NMR (CDCl3): δ 9.19 (m, 1 H), 8.91 (s, 1 H), 8.31 (d, J=7.6 Hz, 1 H), 7.63 (m, 1 H), 7.22 (m, 1 H), 7.01-6.97 (m, 2 H), 6.83-6.79 (m, 2 H), 4.23 (s, 2 H), 3.79 (s, 3 H); MS m/z 334 (M+1).

reactant | 8-hydroxy-1,6-naphthyridine-7-carbonitrile | 0.29 mmol, 50 mg | OC=1C(=NC=C2C=CC=NC12)C#N | C9H5N3O
reactant | 2-(3-methoxyphenyl)acetic hydrazide | 1.5 mmol, 270 mg | COC=1C=C(C=CC1)CC(=O)NN | C9H12N2O2
product | 7-[5-(3-Methoxybenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol | COC=1C=C(CC=2NC(=NN2)C2=NC=C3C=CC=NC3=C2O)C=CC1 | C18H15N5O2
